US07241798B2
(1S,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid (racemic)
To a stirred solution of racemic Intermediate 38, one enantiomer being ((1S,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-methanol (0.69 g, 2.5 mmol) in acetone (20 mL) was added Jones Reagent (3 mL) dropwise with stirring. Additional acetone (50 mL) was added and the material was triturated then filtered to remove the solid. The filtrate was concentrated and partitioned between water of pH=6 and methylene chloride. The organics were washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound (0.45 g, 62% yield).

reactant | ((1S,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-methanol | 2.5 mmol, 0.69 g | C(C1=CC=CC=C1)N1[C@H]([C@@]2(CC2C1)CO)C1=CC=CC=C1 | C19H21NO
reactant | Jones Reagent | 3 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (1S,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid | 0.45 g, 62% yield | C(C1=CC=CC=C1)N1[C@H]([C@@]2(CC2C1)C(=O)O)C1=CC=CC=C1 | C19H19NO2
